US08236826B2
Production of ethyl{4-[5-(3,4-dichlorobenzoylamino)-pyridin-2-yloxy]benzylamino}acetate
A solution of N-[2-(4-formylphenoxy)-5-pyridyl]-3,4-dichlorobenzamide (1.00 g, 2.58 mmol), glycine ethyl ester hydrochloride (0.400 g, 2.84 mmol) and sodium acetate (0.230 g, 2.84 mmol) in methanol (20 mL) was stirred for 30 minutes at 60° C. The reaction solution was cooled with ice, and then sodium cyanoborohydride (0.180 g, 2.84 mmol) was added. The resulting solution was stirred at the same temperature for 1 hour. To the reaction solution was added 5 M hydrochloric acid (2 mL) and concentrated under reduced pressure. To the residue was added a saturated sodium bicarbonate solution, and extracted with dichloromethane. The dichloromethane layer was washed with brine, dried over anhydrous sodium sulfate, and evaporated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:2), to thereby yield 0.752 g of the title compound.

reactant | N-[2-(4-formylphenoxy)-5-pyridyl]-3,4-dichlorobenzamide | 2.58 mmol, 1.00 g | C(=O)C1=CC=C(OC2=NC=C(C=C2)NC(C2=CC(=C(C=C2)Cl)Cl)=O)C=C1 | C19H12Cl2N2O3
reactant | glycine ethyl ester hydrochloride | 2.84 mmol, 0.400 g | Cl.C(C)OC(CN)=O
reactant | sodium acetate | 2.84 mmol, 0.230 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 2.84 mmol, 0.180 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 5 M, 2 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | ethyl{4-[5-(3,4-dichlorobenzoylamino)-pyridin-2-yloxy]benzylamino}acetate | C(C)OC(CNCC1=CC=C(C=C1)OC1=NC=C(C=C1)NC(C1=CC(=C(C=C1)Cl)Cl)=O)=O | C23H21Cl2N3O4
